US05773530
A solution of 3-[2-{3-(tert-butyldimethylsilyloxy)cyclohexyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (570 mg) and 70% aqueous tetrabutylammonium fluoride (4.3 g) in tetrahydrofuran (10 ml) was stirred for overnight at room temperature. A reaction mixture was diluted with ethyl acetate (100 ml), which was washed in turn with water (50 ml×4) and saturated sodium chloride in water (50 ml×2), and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (40 ml) eluting in turn with 30%, 50% ethyl acetate in dichloromethane and ethyl acetate. Fractions containing desired product were concentrated under reduced pressure to give residue, which was recrystallized from ethanol to give 3-[2-(3-hydroxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (430 mg).

reactant | 3-[2-{3-(tert-butyldimethylsilyloxy)cyclohexyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 570 mg | [Si](C)(C)(C(C)(C)C)OC1CC(CCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C29H36N4O2Si
reactant | tetrabutylammonium fluoride | 4.3 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-[2-(3-hydroxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 430 mg | OC1CC(CCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H22N4O2
